US04331447
(a-2) Stearic acid dipropanolamide (1:1)
(a-4) Mixture of 8 parts of stearic acid monoethanolamide (1:1) and 2 parts of sodium salt of nonylphenol-EO(4) sulfate

reactant | stearic acid monoethanolamide | CCCCCCCCCCCCCCCCCC(=O)NCCO | C20H41NO2
reactant | sodium | [Na] | Na
reactant | nonylphenol | CCCCCCCCCC=1C=CC(=CC1)O | C15H24O
product | Stearic acid | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
